US07473784B2
To a solution of 4-bromo-3-(2-fluorophenyl)-1-methyl-1H-pyrazole (3.03 g, 11.9 mmol, 1.0 eq.) in THF (40 mL) under nitrogen at −78° C. was added nBuLi (hexane, 2.5 M, 5.3 mL, 13.2 mmol, 1.1 eq.) over 10 min. After 45 min, 2-isopropoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (2.7 mL, 13.2 mmol, 1.1 eq.) was added. After 1 h 45 min, saturated aqueous NH4Cl and EtOAc were added. The cold bath was removed, and the reaction mixture was stirred to room temperature. The layers were separated, and the organic layer was washed with brine, dried over Na2SO4, filtered, and concentrated in vacuo. Silica gel chromatography using hexanes:EtOAc (3:1) as eluent afforded 3-(2-fluorophenyl)-1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole as a white solid (1.83 g, 51% yield).

reactant | 4-bromo-3-(2-fluorophenyl)-1-methyl-1H-pyrazole | 11.9 mmol, 3.03 g, 1.0 eq. | BrC=1C(=NN(C1)C)C1=C(C=CC=C1)F | C10H8BrFN2
reactant | nBuLi | 13.2 mmol, 2.5 M, 5.3 mL, 1.1 eq. | [Li]CCCC
reactant | 2-isopropoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 13.2 mmol, 2.7 mL, 1.1 eq. | C(C)(C)OB1OC(C(O1)(C)C)(C)C | C9H19BO3
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-(2-fluorophenyl)-1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 1.83 g, 51% yield | FC1=C(C=CC=C1)C1=NN(C=C1B1OC(C(O1)(C)C)(C)C)C | C16H20BFN2O2
